US06310079B1
(E)-1-(6-Methoxypyridin-2-yl)-2-styryl-1H-benzimidazole hydrochloride
According to the literature procedure (Trecourt, F.; Mallet, M.; Mongin, O.; Queguiner, G. J. Org. Chem. 1994, 59, 6173.), a solution of (E)-1-(6-chloropyridin-2-yl)-2-styryl-1H-benzimidazole (145 mg, 0.44 mmol), 28% NaOEt in MeOH (3 ml) and toluene (5 ml) was maintained at room temperature for 2 h then heated under reflux condition for 1 h. To this solution, water (1 ml) was added and it was concentrated by evaporator. To this residue, water (5 ml) was added and the whole was extracted with CH2Cl2 (2×15 ml). Combined organic layer was dried (magnesium sulfate) and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, 20 g; n-hexane/ethyl acetate (5/1)) to afford the desired compound (35 mg, 24%). The free base was treated with a 10% methanol solution of hydrogen chloride and concentrated to dryness. The residue was recrystallized from ethyl acetate/n-hexane to give the titled compound.

reactant | (E)-1-(6-chloropyridin-2-yl)-2-styryl-1H-benzimidazole | 0.44 mmol, 145 mg | ClC1=CC=CC(=N1)N1C(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2 | C20H14ClN3
reactant | NaOEt | CC[O-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | MeOH | 3 ml | CO | CH4O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-1-(6-Methoxypyridin-2-yl)-2-styryl-1H-benzimidazole hydrochloride | 35 mg, 24% | Cl.COC1=CC=CC(=N1)N1C(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2 | InChI=1S/C21H17N3O.ClH/c1-25-21-13-7-12-19(23-21)24-18-11-6-5-10-17(18)22-20(24)15-14-16-8-3-2-4-9-16;/h2-15H,1H3;1H/b15-14+;
